US08222245B2
9-Hydroxy-3,4-dihydro-1,4-benzoxazepin-5(2H)-one
9-(Methyloxy)-3,4-dihydro-1,4-benzoxazepin-5(2H)-one (Preparation 57) (9.3 g, 48.1 mmol) in hydrobromic acid (120 ml, 2210 mmol) was stirred and heated at 105° C. for 5 hours. Evaporated to dryness, azeotroped with 200 ml of ethanol and biotage chromatographed twice in 3% methanol in EtOAc. Triturated with EtOAc and filtered off to give 6.61 g of white solid. MS (ES): C9H9NO3 requires 179; found 180 [M+H]+.

reactant | 9-(Methyloxy)-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 48.1 mmol, 9.3 g | COC1=CC=CC=2C(NCCOC21)=O | C10H11NO3
reactant | hydrobromic acid | 2210 mmol, 120 ml | Br | BrH
product | 9-Hydroxy-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 6.61 g | OC1=CC=CC=2C(NCCOC21)=O | C9H9NO3
